US04112098
To a solution of 245 g (1.48 mole) of chloral hydrate and 1.55 kg of anhydrous sodium sulfate in 4 liters of water is added a solution of 171 g (1.34 mole) of 3-chloroaniline in 800 ml of water and 117.5 ml of concentrated hydrochloric acid followed by a solution of 295 g (4.25 mole) of hydroxylamine hydrochloride in 500 ml of water. The resulting suspension is heated to 100°, cooled to room temperature and extracted with 2 liters of ether. The ether extract is stripped and the solid reextracted with 2 liters of ether. The ether extract is stripped and the solid residue air dried to give 193.4 g (73% yield) of isonitroso-3-chloroacetanilide. This is finely pulverized and added in small portions with stirring over a twenty minute interval to 980 ml of concentrated sulfuric acid held at 80°-85°. The reaction mixture is then heated for 15 minutes at 90°- 95°, cooled to room temperature, and poured over cracked ice. The red precipitate is filtered, washed with water and suspended in 2 liters of water and brought into solution by the addition of 390 ml of 3N sodium hydroxide solution. The solution is filtered through Celite and the filtrate carefully adjusted to pH 8.0 with concentrated hydrochloric acid at which point a solution of 39 ml of concentrated hydrochloric acid in 195 ml of water is added. The suspension is stirred for five minutes and filtered, weight 90 g of crude 4-chloroisatin (37% yield based on 3-chloroaniline).

reactant | chloral hydrate | 1.48 mole, 245 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | sodium sulfate | 1.55 kg | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-chloroaniline | 1.34 mole, 171 g | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | hydroxylamine hydrochloride | 4.25 mole, 295 g | Cl.NO
solvent | water | 4 liters | O | H2O
solvent | water | 800 ml | O | H2O
solvent | hydrochloric acid | 117.5 ml | Cl | ClH
solvent | water | 500 ml | O | H2O
product | 3-chloroacetanilide | 73% yield | CC(=O)NC1=CC(=CC=C1)Cl | C8H8ClNO
